.SUBCKT PESD5V0L4UG 1 2 3 4 5
*
D1 2 1 PESD5V0L4UG
D2 2 3 PESD5V0L4UG
D3 2 4 PESD5V0L4UG
D4 2 5 PESD5V0L4UG
*
.MODEL PESD5V0L4UG D
+ IS = 3.644E-17
+ N = 0.9717
+ BV = 6.8
+ IBV = 0.001
+ RS = 0.5003
+ CJO = 1.641E-11
+ VJ = 0.8979
+ M = 0.33
+ FC = 0.5
.ENDS
