.SUBCKT PESD3V3L2UM 1 2 3
*
D1 3 1 PESD3V3L2UM
D2 3 2 PESD3V3L2UM
*
.MODEL PESD3V3L2UM D
+ IS = 3.644E-17 
+ N = 0.9717 
+ BV = 5.6 
+ IBV = 0.001 
+ RS = 0.5003 
+ CJO = 2.136E-11 
+ VJ = 0.7025 
+ M = 0.3242 
+ FC = 0.5 
.ENDS
