*
.SUBCKT PESD5V0L6US 1 2 3 4 5 6 7 8
*
D1 6 1 PESD5V0L6US
D2 6 2 PESD5V0L6US
D3 6 3 PESD5V0L6US
D4 6 4 PESD5V0L6US
D5 6 5 PESD5V0L6US
D6 6 8 PESD5V0L6US
*
* The resistor R1 is only for 
* pinning of the device
*
R1 6 7 0
*
.MODEL PESD5V0L6US D
+ IS = 3.644E-17
+ N = 0.9717
+ BV = 6.8
+ IBV = 0.001
+ RS = 0.5003
+ CJO = 1.641E-11
+ VJ = 0.8979
+ M = 0.33
+ FC = 0.5
.ENDS
*
