.SUBCKT PESD5V0L5UY 1 2 3 4 5 6
*
D1 2 1 PESD5V0L5UY
D2 2 3 PESD5V0L5UY
D3 2 4 PESD5V0L5UY
D4 2 5 PESD5V0L5UY
D5 2 6 PESD5V0L5UY
*
.MODEL PESD5V0L5UY D 
+ IS = 3.644E-17 
+ N = 0.9717 
+ BV = 6.8 
+ IBV = 0.001 
+ RS = 0.5003 
+ CJO = 1.641E-11 
+ VJ = 0.8979 
+ M = 0.33 
+ FC = 0.5 
.ENDS
