*
.SUBCKT PESD3V3S2UQ 1 2 3
*
* The Resistors R1 and R2 do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
R1 3 1 2.2E+9
D1 3 1 PESD3V3S2UQ
R2 3 2 2.2E+9
D2 3 2 PESD3V3S2UQ
*
.MODEL PESD3V3S2UQ D
+ IS = 3.134E-16
+ N = 0.9403
+ BV = 5.6
+ IBV = 0.005
+ RS = 0.2549
+ CJO = 1.961E-10
+ VJ = 0.9187
+ M = 0.423
+ FC = 0.5
.ENDS
*
