*
.SUBCKT PESD5V0S2UQ 1 2 3
D1 3 1 PESD5V0S2UQ
D2 3 2 PESD5V0S2UQ
.MODEL PESD5V0S2UQ D
+ IS = 3.02E-16
+ N = 0.9388
+ BV = 5.6
+ IBV = 0.005
+ RS = 0.2559
+ CJO = 1.519E-10
+ VJ = 0.9041
+ M = 0.4027
+ FC = 0.5
.ENDS
*
