*
.SUBCKT PESD3V3S2UT 1 2 3
*
D1 3 1 PESD3V3S2UT
D2 3 2 PESD3V3S2UT
*
.MODEL PESD3V3S2UT D
+ IS = 7.035E-16
+ N = 0.9809
+ BV = 5.6
+ IBV = 0.005
+ RS = 0.3487
+ CJO = 1.961E-10
+ VJ = 0.9187
+ M = 0.423
+ FC = 0.5
.ENDS
*
