*
.SUBCKT PESD3V3V4UG 1 2 3 4 5
*
* The Resistors do not reflect
* physical devices.  Instead they 
* improve modeling in the reverse
* mode of operation.
*
R1 2 1 5E+8
D1 2 1 PESD3V3V4UG
R2 2 3 5E+8
D2 2 3 PESD3V3V4UG
R3 2 4 5E+8
D3 2 4 PESD3V3V4UG
R4 2 5 5E+8
D4 2 5 PESD3V3V4UG
*
.MODEL PESD3V3V4UG D
+ IS = 2.497E-17
+ N = 1.003
+ BV = 5.6
+ IBV = 0.001
+ RS = 0.5053
+ CJO = 1.561E-11
+ VJ = 0.6327
+ M = 0.2904
.ENDS
