* 
.SUBCKT PESD12VL1BA 1 2
*
D1 11 1 PESD12VL1BA
D2 11 2 PESD12VL1BA
*
.MODEL PESD12VL1BA D
+ IS = 9.794E-15
+ N = 1.101
+ BV = 15
+ IBV = 0.005
+ RS = 0.3363
+ CJO = 4.023E-11
+ VJ = 0.6144
+ M = 0.3297
+ FC = 0.5
.ENDS
*
