* 
.SUBCKT PESD24VL1BA 1 2
*
D1 11 1 PESD24VL1BA
D2 11 2 PESD24VL1BA
*
.MODEL PESD24VL1BA D
+ IS = 9.794E-15
+ N = 1.101 
+ BV = 27
+ IBV = 0.002
+ RS = 0.3363
+ CJO = 2.233E-11
+ VJ = 0.7107
+ M = 0.3546
+ FC = 0.5
.ENDS
*
