*
.SUBCKT PESD5VOV4UW 1 2 3 4 5
*
* The Resistors do not reflect
* physical devices.  Instead they 
* improve modeling in the reverse
* mode of operation.
*
R1 2 1 1E+10
D1 2 1 PESD5VOV4UW
R1 2 3 1E+10
D1 2 3 PESD5VOV4UW
R1 2 4 1E+10
D1 2 4 PESD5VOV4UW
R1 2 5 1E+10
D1 2 5 PESD5VOV4UW
*
.MODEL PESD5VOV4UW D
+ IS = 3.997E-17
+ N = 1.012
+ BV = 6.8
+ IBV = 0.001
+ RS = 1.445
+ CJO = 1.217E-11
+ VJ = 0.6509
+ M = 0.2841
.ENDS
