.SUBCKT PESD15VS2UAT 1 2 3
D1 1 3 PESD15VS2UAT
D2 2 3 PESD15VS2UAT
.MODEL PESD15VS2UAT D
+ IS = 9.794E-15
+ N = 1.101
+ BV = 18
+ IBV = 0.005
+ RS = 0.3363
+ CJO = 3.17E-11
+ VJ = 0.6421
+ M = 0.3327
+ FC = 0.5
.ENDS
