.SUBCKT PESD24VS2UAT 1 2 3
D1 1 3 PESD24VS2UAT
D2 2 3 PESD24VS2UAT
.MODEL PESD24VS2UAT D
+ IS = 9.794E-15
+ N = 1.101
+ BV = 27
+ IBV = 0.002
+ RS = 0.3363
+ CJO = 2.233E-11
+ VJ = 0.7107
+ M = 0.3546
+ FC = 0.5
.ENDS
