*
.SUBCKT PESD12VS2UQ 1 2 3
D1 3 1  PESD12VS2UQ
D2 3 2  PESD12VS2UQ
.MODEL PESD12VS2UQ D
+ IS = 9.72E-15
+ N = 1.088
+ BV = 15.4
+ IBV = 0.005
+ RS = 0.2663
+ CJO = 4.023E-11
+ VJ = 0.6144
+ M = 0.3297
+ FC = 0.5
.ENDS
*
