*
.SUBCKT PESD12VS2UT 1 2 3
*
D1 3 1 PESD12VS2UT
D2 3 2 PESD12VS2UT
*
.MODEL PESD12VS2UT D
+ IS = 9.794E-015
+ N = 1.101
+ BV = 15
+ IBV = 0.005
+ RS = 0.3363
+ CJO = 4.023E-011
+ VJ = 0.6144
+ M = 0.3297
+ FC = 0.5
.ENDS
*
