*
.SUBCKT PMBD7100 1 2 3
*
* The Resistors R1 and R2 do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
R1 1 3 9E+9
D1 1 3 PMBD7100
R2 2 3 9E+9
D2 2 3 PMBD7100
*
.MODEL PMBD7100 D
+ IS = 3.622E-9
+ N = 1.865
+ BV = 110
+ IBV = 1E-5
+ RS = 0.9623
+ CJO = 5.936E-13
+ VJ = 0.6877
+ M = 0.1
+ FC = 0.5
+ TT = 3.246E-9
.ENDS
*
