.SUBCKT BSH201 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 159e-12
Cgd1 6 4 148e-12
Cgd2 1 4 5e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 1 3 Dbody
Rd 5 1 Rtemp 1.6
Rg 2 6 250
.MODEL MOST1 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=-1.91 Kp=9.27e-7
+                Rs=0 Rd=0 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08 
+                Eta=2e-5 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=3e12 Delta=0.1 Theta=0)
.MODEL MOST2 PMOS(Level=3 W=0.1 L=0.3e-6 Vto=1.19 Kp=9.27e-7
+                Rs=1000 Rd=1000 Uo=650 Vmax=0 Xj=5e-7 Kappa=0.08
+                Eta=2e-5 Tpg=-1 Is=0 Ld=0 Wd=0 Cgso=0 Cgdo=0
+                Cgbo=0 Nfs=0 Delta=0.1 Theta=0)
.MODEL Dbody D(Is=1e-14 N=0.8 Rs=0.7 Ikf=1e3 Cjo=0 M=0.3 Vj=0.3
+                Bv=60 Ibv=10e-6 Tt=70e-9 Fc=0.5)
.MODEL Rtemp RES(TC1=5.225e-3 TC2=1.7e-5)
.ENDS
