*
.SUBCKT 1PS10SB62 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.729E+8 
D1 1 2 1PS10SB62
*
.MODEL 1PS10SB62 D 
+ IS = 4E-10 
+ N = 0.9529 
+ BV = 43 
+ IBV = 1E-6 
+ RS = 131.3 
+ CJO = 3.732E-13 
+ VJ = 0.117 
+ M = 0.9339 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
