*
.SUBCKT 1PS10SB63 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.744E+6 
D1 1 2 1PS10SB63 
*
.MODEL 1PS10SB63 D 
+ IS = 2.655E-7 
+ N = 1.033 
+ BV = 6 
+ IBV = 5E-5 
+ RS = 20.51 
+ CJO = 3.376E-13 
+ VJ = 0.02199 
+ M = 0.0446 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
