*
.SUBCKT 1PS10SB82 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+7 
D1 1 2 1PS10SB82
*
.MODEL 1PS10SB82 D 
+ IS = 1.042E-8 
+ N = 1.029 
+ BV = 17 
+ IBV = 0.001 
+ RS = 5.567 
+ CJO = 9.779E-13 
+ VJ = 0.2925 
+ M = 0.194 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
