*
.SUBCKT 1PS66SB17 1 2 3 4 5 6
*
* The Resistors do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
R1 1 6 6E+07
D1 1 6 1PS66SB17
R2 2 5 6E+07
D2 2 5 1PS66SB17
R3 3 4 6E+07
D3 3 4 1PS66SB17
*
.MODEL 1PS66SB17 D 
+ IS = 1.419E-09 
+ N = 1.022 
+ BV = 6 
+ IBV = 2.45E-06 
+ RS = 5.112 
+ CJO = 7.662E-13
+ VJ = 0.1681 
+ M = 0.1995
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
